Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
wheat / Levaquin / Protonix / Flagyl
 
Attending: ___.
 
Chief Complaint:
fever, lethargy  
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ PMHx ESRD on HD ___, currently with L tunnelled 
subclavian line), T1DM, CAD s/p AVR and CABG, PAD, CVA with 
R-sided weakness, prior SVC and R bracheocephalic vein stenosis, 
and celiac disease who presents from his nursing facility for 
fever and lethargy.  
He has had fevers to 102 since yesterday following dialysis. His 
normal HD schedule is ___ as noted above; however, he was 
felt to still be volume overloaded following his ___ 
session. He had a short session on ___.  
In the ED, initial VS 98.1 74 136/71 16 99% on RA.  
His initial FSBG was 47 while enroute to the hospital for which 
he received juice.  
Exam was notable for chronic and well-appearing ulcer of her R 
heel and R shin. A RIJ was placed for access and his L tunneled 
HD line was removed and the tip sent for culture. Labs were 
notable for K 6.2 which improved to 4.6 following HD in the ED; 
he also received 2 doses of kayexalate. Lact wnl. WBC 12.3 
(67.4% neuts), H/H 9.4/29.8, Plt 139. LFTs showed ALT 55, AST 
44, AP 203, Tbili wnl. CXR showed no evidence of PNA. He 
received vancomycin x 1 during HD and zosyn x 1 in the ED.  
Prior to transfer, he had a FSBG to 64 which improved to 118 
with glucose gel. Vitals prior to transfer 97.7, 79 149/79 18 
98% RA.  
Upon arrival to the floor, pt feels exhausted though denies any 
specific pain. He does not presently feel febrile. No cough, 
SOB, abdominal pain, diarrhea/constipation. Feels that his HD 
line site is not tender or painful.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
- recent embolic stroke (___) with persistent right 
sided weakness
- ESRD-now on HD, previously on PD
- Fungal peritonitis associated with PD ___
- History of infected AV graft in right upper ___ 
- HLD  
- depression  
- celiac disease  
- recurrent pleural effusion since CABG
- IDDM since age ___ c/b retinopathy, neuropathy, nephropathy
- CAD-s/p stenting in ___, CABG at ___ in ___  
 
PAST SURGICAL HISTORY:
- ___ CABG with prosthetic AVR for bicuspid aortic valve
- ___ LHC with DES to left circumflex  
- R distal SFA angioplasty (___)  
- R heel debridement (___)  
- placement/replacement of PD catheter (___)  
- partial excision R AV graft ___  
- tunneled R IJ HD catheter ___  
- RUE AV graft ___  
- R distal SFA angioplasty ___  
- arthroplasty R ___ PIP joint, debridement of R ___ toe ___  
- R CFA to AT artery BPG with NRSVG ___  
- R SFA angioplasty ___  
- L TMA ___ (c/b infection, s/p debridement and closure) 
- L SFA to peroneal BPG procedures for PVD ___
- R knee surgery

 
Social History:
___
Family History:
Father with CAD, CABG.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 98 157/86 81 18 95/RA  
General: Sleepy limited to engage but in no acute distress  
HEENT: Sclera anicteric, EOMI, PERRL  
Neck: Supple, RIJ in place  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: No ___ edema but clean based ulcers on R shin and heel  
Neuro: CNII-XII grossly intact, moving extremities  

DISCHARGE PHYSICAL EXAM
Vitals:  96.6| Tm 100.2| 70-90| 102-159/80-100| 18| 99% on RA
General: AO x 3, in NAD, uncomfortable on bed   
HEENT:  EOMI, MM
CV:  RRR, no murmurs rubs or gallops
Lungs:  CTAB anteriorly 
Abdomen:  soft, non-distended, non-tender
Ext:  non-edematous, non-erythematous
Neuro:  CN ___ intact, weakness of right UE and ___. Strength 
___ left UE and left ___. Strength ___ right UE and left ___. 
Sensation intact to soft touch in bilateral UE and ___. 
Skin:  left upper chest with dialysis port. Left heel with 
ulceration approximately 3 cm x 4 cm. Right shin with ulceration 
(bandaged)
 
Pertinent Results:
ON ADMISSION

___ 12:00PM BLOOD WBC-12.3*# RBC-3.00* Hgb-9.4* Hct-29.8* 
MCV-99* MCH-31.3 MCHC-31.5* RDW-15.7* RDWSD-56.7* Plt ___
___ 12:00PM BLOOD Plt ___
___ 12:00PM BLOOD Glucose-55* UreaN-56* Creat-7.5*# Na-137 
K-6.2* Cl-99 HCO3-21* AnGap-23*
___ 12:00PM BLOOD ALT-55* AST-44* AlkPhos-203* TotBili-0.1
___ 12:00PM BLOOD Albumin-3.8
___ 12:33PM BLOOD Lactate-1.0

ON DISCHARGE
___ 05:48AM BLOOD WBC-5.8 RBC-2.92* Hgb-9.1* Hct-28.7* 
MCV-98 MCH-31.2 MCHC-31.7* RDW-15.2 RDWSD-54.9* Plt ___
___ 05:48AM BLOOD Plt ___
___ 05:48AM BLOOD ___ PTT-47.4* ___
___ 05:48AM BLOOD Glucose-210* UreaN-40* Creat-4.2*# Na-136 
K-4.3 Cl-97 HCO3-26 AnGap-17
___ 05:48AM BLOOD Albumin-3.7 Calcium-8.4 Phos-4.8* Mg-2.4

MICROBIOLOGY
Blood cx x 4: pending
C. diff: negative

IMAGING:
[___] CXR New right internal jugular central venous line 
terminates at the cavoatrial junction.  Low lung volumes, with 
continued mild interstitial pulmonary edema. No new focal 
consolidation or pneumothorax. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE: 

___ PMHx ESRD on HD (L tunnelled subclavian line), T1DM, CAD 
s/p AVR and CABG, PAD, CVA with R-sided weakness, prior SVC and 
R brachiocephalic vein stenosis, and celiac disease presenting 
with fever/lethargy.
  
ACUTE ISSUES:
# Fever: DDX includes possible catheter-related blood stream 
infection vs chronic skin ulcerations on lower extremities vs 
colitis/proctitis . No other obvious sources of infection. 
Neither HD site nor skin ulcerations appear infected. CXR 
negative. Tm of 100.2 on ___, afebrile throughout remainder 
of admission. New onset diarrhea and rectal pain on ___ C. 
diff negative, rectal exam w/o abnormalities. WBC downtrending 
from admission of 12.3 to 5.8 on discharge. Treated empirically 
with ceftazidime and vancomycin x 2 days, discontinued after 48 
hrs afebrile.  
.
#Rectal pain: presented on ___ (day 2 of admission), 
described as a pain within the rectum with tenesmus-like 
sensation. Occurred following multiple diarrheal bowel movements 
overnight. Self-resolved in ___ of ___. Rectal exam w/o 
abnormality, rectal tone present and no fistula tracts or other 
abnormalities found. Low threshold for CT abdomen/pelvis w/ 
contrast if recurrence of pain. 
 .
CHRONIC ISSUES: 
# ESRD on HD ___ T1DM: Dialyzed on ___ and ___ 
.
# Hypoglycemia: T1DM on insulin. Placed on home insulin of 12 of 
Lantus at bedtime. 
 .
# ESRD on HD ___ T1DM: Dry weight per OMR ~ 81 kg. Hyperkalemic 
to 5.9 on ___. Continued HD schedule of 3x/week on ___
.
# H/o AVR for bicuspid aortic valve  
Mechanical valve. On 6mg warfarin, monitored elsewhere. ___ 
___ (___ home records) receives 6mg of warfarin. Last INR of 
2.63 on ___. INR today of 2.0. Daily INR, goal ___ per Chest 
recommendations for mAVR  
.
# HTN: Continue home BP meds 
 .
# PVD: Leading to ulceration on R leg. Continue home meds 
including Cilostazol  
.
# Pressure ulcers: Does not appear infected at this time. 
Continue wound care
.
# .CAD s/p CABG  Continue home metop 
.
# s/p CVA : Continue ASA  
.
# Anemia : Chronic, longstanding, at baseline. On Aranesp  
.
# GERD : Continue home omeprazole  
 .
TRANSITIONAL ISSUES
- Please provide wound care for area of skin breakdown on lower 
back
- Please follow up with your primary care physician

# CODE STATUS: Full Code  
# CONTACT: WIFE ___: ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. BuPROPion 100 mg PO BID 
6. Calcium Carbonate 1000 mg PO TID:PRN acid reflux 
7. Cilostazol 100 mg PO BID 
8. Collagenase Ointment 1 Appl TP DAILY 
9. Divalproex (EXTended Release) 500 mg PO DAILY 
10. Doxazosin 1 mg PO HS 
11. FoLIC Acid 1 mg PO DAILY 
12. Gabapentin 200 mg PO QHS 
13. Lisinopril 20 mg PO DAILY 
14. Metoclopramide 5 mg PO TID 
15. Metoprolol Succinate XL 200 mg PO DAILY 
16. Mirtazapine 30 mg PO QHS 
17. Nephrocaps 1 CAP PO DAILY 
18. Omeprazole 20 mg PO DAILY 
19. Ondansetron 4 mg PO Q8H:PRN nausea 
20. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
21. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 
100 mcg/mL injection 1X/WEEK 
22. Bisacodyl 5 mg PO DAILY 
23. Docusate Sodium 100 mg PO DAILY 
24. Lidocaine 5% Patch 1 PTCH TD QAM 
25. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
26. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
27. Glargine 10 Units Breakfast
Glargine 10 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
28. Warfarin 6 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. BuPROPion 100 mg PO BID 
6. Calcium Carbonate 1000 mg PO TID:PRN acid reflux 
7. Cilostazol 100 mg PO BID 
8. Collagenase Ointment 1 Appl TP DAILY 
9. Divalproex (EXTended Release) 500 mg PO DAILY 
10. Doxazosin 1 mg PO HS 
11. FoLIC Acid 1 mg PO DAILY 
12. Gabapentin 200 mg PO QHS 
13. Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
14. Lidocaine 5% Patch 1 PTCH TD QAM 
15. Lisinopril 20 mg PO DAILY 
16. Metoclopramide 5 mg PO TID 
17. Mirtazapine 30 mg PO QHS 
18. Nephrocaps 1 CAP PO DAILY 
19. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
20. Omeprazole 20 mg PO DAILY 
21. Ondansetron 4 mg PO Q8H:PRN nausea 
22. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
23. Warfarin 6 mg PO DAILY16 
24. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 
100 mcg/mL injection 1X/WEEK 
25. Bisacodyl 5 mg PO DAILY 
26. Docusate Sodium 100 mg PO DAILY 
27. Metoprolol Succinate XL 200 mg PO DAILY 
28. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
- Fever
- Pressure ulcer, stage 1 

Secondary Diagnosis:
- End stage renal disease requiring hemodialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you. You were transferred to the 
hospital for fevers and lethargy. We were concerned about 
possible infection and completed a thorough workup that included 
laboratory tests and a chest x-ray. Fortunately, all of these 
were normal and you continued to improve clinically. As such, we 
felt comfortable discharging you home. 

Thank you for allowing us to care for you! 

Your ___ Care Team 
 
Followup Instructions:
___